US07230099B2
Step A: Preparation of 3-bromo-7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester.
N-bromosuccinimide (14 mg, 0.080 mmol) was added to a solution of 7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (30 mg, 0.072 mmol) in chloroform (1.0 mL). After stirring for five hours the reaction was diluted with ethyl acetate, washed with NaHSO3, brine, dried over Na2SO4, and concentrated to a yellow solid (33 mg, 92%). MS APCI (+) m/z 494, 496, 498 (M+, Cl, Br pattern) detected. 1H NMR (400 MHz, CDCl3) δ 8.82 (s, 1H), 8.65 (s, 1H), 7.67 (s, 1H), 7.55 (dd, 1H), 7.22 (dd, 1H), 6.53 (d, 1H), 3.98 (s, 3H).

reactant | N-bromosuccinimide | 0.080 mmol, 14 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 0.072 mmol, 30 mg | COC(=O)C=1C(=C(C=2N(C1)C=CN2)Cl)NC2=C(C=C(C=C2)Br)Cl | C15H10BrCl2N3O2
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C(=C(C=2N(C1)C(=CN2)Br)Cl)NC2=C(C=C(C=C2)Br)Cl | C15H9Br2Cl2N3O2
